US04281000
7-(3-Pyridyl)pyrazolo[1,5-a]pyrimidine-3-carbonitrile pyridine-1-oxide
A mixture of 4.42 g of 7-(3-pyridyl)pyrazolo[1,5-a]pyrimidine-3-carbonitrile, 50 ml. of glacial acetic acid and 5 ml. of 30% hydrogen peroxide is heated on a steam bath for 2 hours. The mixture is cooled, filtered and the solid recrystallized from acetic acid to give 2.05 g. of the product of the example, m.p. 294°-295° C.

reactant | 7-(3-pyridyl)pyrazolo[1,5-a]pyrimidine-3-carbonitrile | 4.42 g | N1=CC(=CC=C1)C1=CC=NC=2N1N=CC2C#N | C12H7N5
reactant | hydrogen peroxide | OO | H2O2
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 7-(3-Pyridyl)pyrazolo[1,5-a]pyrimidine-3-carbonitrile pyridine-1-oxide | [N+]1(=CC=CC=C1)[O-].N1=CC(=CC=C1)C1=CC=NC=2N1N=CC2C#N | InChI=1S/C12H7N5.C5H5NO/c13-6-10-8-16-17-11(3-5-15-12(10)17)9-2-1-4-14-7-9;7-6-4-2-1-3-5-6/h1-5,7-8H;1-5H
